US06734179B2
To a stirred solution of 1.90 g (7.13 mmol) [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-thiourea in 50 ml chloroform was added dropwise 0.37 ml (7.22 mmol) bromine and the mixture heated at reflux for 18 hours. The mixture was then concentrated in vacuo. The residue was recrystallised from ethyl acetate to afford 920 mg (49%) 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine as a white solid. ES-MS m/e (%): 265 (M+H+, 100).

reactant | [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-thiourea | 7.13 mmol, 1.90 g | COC1=C(C=C(C=C1)C1CCOCC1)NC(=S)N | C13H18N2O2S
reactant | bromine | 7.22 mmol, 0.37 ml | BrBr | Br2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | 920 mg, 49% | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
